US08981111B2
To a solution of 2-{6-[({[(3,6-dimethylpyrazin-2-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione (4.08 g, 8.80 mmol) in tetrahydrofuran (60 mL) was added dropwise hydrazine hydrate (2.14 mL, 44.0 mmol). After stirring at room temperature for 6 h, the reaction mixture was filtered, the insolubles washed with ethyl acetate, and the combined filtrates concentrated in vacuo, diluted in ethyl acetate (100 mL), washed with water (70 mL), dried over MgSO4 and concentrated to dryness in vacuo. Purification on silica gel afforded 6-[({[(3,6-dimethylpyrazin-2-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-amine [1.97 g, yield 64%; HPLC/MS: m/z=334 (M+H); log P(HCOOH)=1.31].

reactant | 2-{6-[({[(3,6-dimethylpyrazin-2-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione | 8.80 mmol, 4.08 g | CC=1C(=NC(=CN1)C)C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C27H21N5O3
reactant | hydrazine hydrate | 44.0 mmol, 2.14 mL | O.NN
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 6-[({[(3,6-dimethylpyrazin-2-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-amine | 1.97 g, yield 64% | CC=1C(=NC(=CN1)C)C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)N | C19H19N5O
